US07442794B2
2-Methyl-5-fluoro-3-nitrobenzoic Acid
116 ml of sulfuric acid is introduced and mixed in portions at −15° C. with 14.70 g (95.37 mmol) of 5-fluoro-2-methylbenzoic acid. A mixture of nitrating acid (4.79 ml of fuming nitric acid and 21.8 ml of concentrated sulfuric acid) is added in drops to this mixture, specifically at −15 to −10° C. for a period of 90 minutes. After three more hours of stirring, the reaction mixture is poured into ice water and stirred vigorously for about one-half hour. The precipitated crystallizate is suctioned off, washed neutral with water and dried. The yield is 8.56 g (45.1%) of a mixture of various regioisomers and by-products. This mixture is thus used in the next stage (esterification) and purified in this stage.

reactant | sulfuric acid | 116 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-fluoro-2-methylbenzoic acid | 95.37 mmol, 14.70 g | FC=1C=CC(=C(C(=O)O)C1)C | C8H7FO2
reactant | nitric acid | 4.79 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 21.8 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Methyl-5-fluoro-3-nitrobenzoic Acid | CC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])F | C8H6FNO4
